US05053411
A solution of methanesulfonyl chloride 0.374 g, 3.3 mmol in ethyl acetate (3ml was added to a mixture of 1-(2-hydroxyethyl)-4-methoxycarbonyl-4-(N'-phenylpropionamido) piperidine (1.0 g, 3 mmol) and triethylamine. The resulting mixture was stirred overnight. The reaction mixture was filtered and the filtrate was concentrated under vacuum to give an oily residue. The residue was chromatographed on silica gel (290 g; ethyl acetate/hexane: 1:4) to yield 1-(2-methanesulfonylethyl)-4-methoxycarbonyl-4-(N'-phenyl-propionamido)piperidine (0.53 g, 43%) as an oil.

reactant | methanesulfonyl chloride | 3.3 mmol, 0.374 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(2-hydroxyethyl)-4-methoxycarbonyl-4-(N'-phenylpropionamido) piperidine | 3 mmol, 1.0 g | OCCN1CCC(CC1)(N(C(CC)=O)C1=CC=CC=C1)C(=O)OC | C18H26N2O4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-methanesulfonylethyl)-4-methoxycarbonyl-4-(N'-phenyl-propionamido)piperidine | 0.53 g, 43% | CS(=O)(=O)CCN1CCC(CC1)(N(C(CC)=O)C1=CC=CC=C1)C(=O)OC | C19H28N2O5S
